US07763609B2
To a solution of (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carboxylic acid (CX2, R6=Me, 0.035 g, 0.12 mmol) in DMF (0.24 mL) was added TBTU (0.040 mg, 0.12 mmol, 1 eq), HOBt (0.0035 mg, 0.024 mmol, 0.2 eq), and DIEA (0.107 mL, 0.60 mmol, 5 eq). The mixture was stirred at RT for 10 min and then N′-hydroxy-3-(trifluoromethyl)benzamidine (0.028 mg, 0.13 mmol, 1.1 eq) was added. After stirring for another 2 h, the reaction mixture was diluted with EtOAc (20 mL), washed with H2O (10 mL) and saturated brine (10 mL), and concentrated in vacuo. The crude residue was dissolved in THF (0.4 mL) and then TBAF (1 M in THF, 0.099 mL, 0.9 eq) was added. The mixture was stirred at RT for 2 h. EtOAc (20 mL) was added to the reaction mixture, which was washed with H2O (10 mL) and saturated brine (10 mL), and concentrated in vacuo. The residue was treated with 30% TFA/DCM (1 mL) at RT for 1. The reaction mixture was concentrated in vacuo and the crude product was purified on reverse phase HPLC (B) to give 0.015 g (26%) of (6S)-2-imino-3,6-dimethyl-6-(3-(3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-5-yl)-tetrahydropyrimidin-4(1H)-one (CX3; R6=Me, R7=3-(3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-5-yl)) as a white solid. 1H NMR (CD3OD): δ 8.40 (m, 2H), 8.04 (d, 1H, J=6.9 Hz), 7.90 (t, 1H, J=8.1 Hz), 3.81 (m, 2H), 3.39 (s, 3H), 1.82 (s, 3H). MS (ESI): MH+=354.2, HPLC (A) Rt=6.234 min.

reactant | (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carboxylic acid | 0.12 mmol, 0.035 g | C(C)(C)(C)OC(=O)[C@@H]1N(C(CC(N1)(C(=O)O)C)=O)C | C12H20N2O5
reactant | TBTU | 0.12 mmol, 0.040 mg, 1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.024 mmol, 0.0035 mg, 0.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.60 mmol, 0.107 mL, 5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | N′-hydroxy-3-(trifluoromethyl)benzamidine | 0.13 mmol, 0.028 mg, 1.1 eq | ON=C(C1=CC(=CC=C1)C(F)(F)F)N | C8H7F3N2O
reactant | TBAF | 1 M, 0.099 mL, 0.9 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 0.24 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (6S)-2-imino-3,6-dimethyl-6-(3-(3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-5-yl)-tetrahydropyrimidin-4(1H)-one | 0.015 g, 26% | N=C1N[C@@](CC(N1C)=O)(C1=NC(=NO1)C1=CC(=CC=C1)C(F)(F)F)C | C15H14F3N5O2
